US07091201B2
2-Phenyl-ethanesulfonic acid (6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide (850 mg) was added to a solution of K-tert. butylate (1.1 g) in ethylene glycol (15 ml). The mixture was stirred at 120° C. for 27 h before it was diluted with water (100 ml), acidified with 10% aq. citric acid (13 ml). The resulting precipitate was collected, washed with water and diethyl ether and dried to give 2-phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (716 mg) as a beige powder. LC-MS: tR=4.44 min, [M+1]+=414.18, [M−1]−=412.13.

reactant | 2-Phenyl-ethanesulfonic acid (6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide | 850 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)CCC1=CC=CC=C1)C1=CC=C(C=C1)C | C19H18ClN3O2S
reactant | citric acid | 13 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethylene glycol | 15 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 2-phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 716 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)CCC1=CC=CC=C1)C1=CC=C(C=C1)C | C21H23N3O4S
